US04430343
In the same manner as described in Example 1 using 2-chloro-1-[2-(ethoxy)ethyl]benzimidazole (5.00 g), N-ethylpiperazine (5.10 g) and fumaric acid (2.91 g), there are obtained curde crystals, which are recrystallized from ethyl acetate-ethanol to give 1-[2-(ethoxy)ethyl]-2-(4-ethyl-1-piperazinyl)benzimidazole.3/2 fumarate (5.62 g) as colorless needles, m.p. 134°-135.5° C.

reactant | 2-chloro-1-[2-(ethoxy)ethyl]benzimidazole | 5.00 g | ClC1=NC2=C(N1CCOCC)C=CC=C2 | C11H13ClN2O
reactant | N-ethylpiperazine | 5.10 g | C(C)N1CCNCC1 | C6H14N2
reactant | fumaric acid | 2.91 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
product | 1-[2-(ethoxy)ethyl]-2-(4-ethyl-1-piperazinyl)benzimidazole | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CC2)CC | C17H26N4O
